US07612089B2
A. Preparation of 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxylic acid
A suspension of (D,L) 3-(2-thienyl)-alanine (302 mg, 1.77 mmol) in 37% aq. HCHO (4 mL) was heated at 60° C. for 2 h. The suspension became clear. It was concentrated in vacuo to give the titled compound (323 mg), which was used in the next step without further purification. MS 184.3 (M+H)

reactant | 3-(2-thienyl)-alanine | 1.77 mmol, 302 mg | S1C(=CC=C1)C[C@H](N)C(=O)O | C7H9NO2S
reactant | HCHO | 4 mL | C=O | CH2O
product | 4,5,6,7-tetrahydro-thieno[3,2-c]pyridine-6-carboxylic acid | 323 mg | S1C=CC=2CNC(CC21)C(=O)O | C8H9NO2S
